US07528143B2
(3-Bromo-phenyl)-pyrrolidin-1-yl-methanone (Intermediate 81)
A solution of 3-bromo-benzoyl chloride (2.7 g, 12 mmol) in DCM (40 mL) was chilled to zero degrees and treated with pyrrolidine (3 mL, 36.8 mmol). Reaction was allowed to come to room temperature and stir for 4 h. Mixture was then poured onto water and washed once. Organic phase then washed with brine, dried over sodium sulfate, filtered and evaporated to amber oil (3.1 g, 100%).

reactant | 3-bromo-benzoyl chloride | 12 mmol, 2.7 g | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | pyrrolidine | 36.8 mmol, 3 mL | N1CCCC1 | C4H9N
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | (3-Bromo-phenyl)-pyrrolidin-1-yl-methanone | BrC=1C=C(C=CC1)C(=O)N1CCCC1 | C11H12BrNO
